US04000143
The pyridinium iodide is obtained by treating 2-(2-formamido-5-methoxyphenethyl)pyridine with methyl iodide according to the procedure described in Example 2 (c) for 2-(o-formamidophenethyl)pyridine. Analytically pure 2-(2-formamido-5-methoxyphenethyl)-1-methylpyridinium iodide is obtained in a yield of 95% and has a melting point of 184°-186.5° C. (corr.).

reactant | pyridinium iodide | [I-].[NH+]1=CC=CC=C1
reactant | 2-(2-formamido-5-methoxyphenethyl)pyridine | C(=O)NC1=C(CCC2=NC=CC=C2)C=C(C=C1)OC | C15H16N2O2
reactant | methyl iodide | CI | CH3I
reactant | 2-(o-formamidophenethyl)pyridine | C(=O)NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C14H14N2O
product | 2-(2-formamido-5-methoxyphenethyl)-1-methylpyridinium iodide | yield of 95% | [I-].C(=O)NC1=C(CCC2=[N+](C=CC=C2)C)C=C(C=C1)OC | InChI=1S/C16H18N2O2.HI/c1-18-10-4-3-5-14(18)7-6-13-11-15(20-2)8-9-16(13)17-12-19;/h3-5,8-12H,6-7H2,1-2H3;1H
